US03997593
400 g (6.3 mols) of 98 % to 100 % nitric acid are placed in a sulphonating flask, and 10 g (0.05 mols) of isopropyl-malonic acid diethyl ester are added dropwise within 15 minutes at room temperature while stirring. The clear solution is allowed to stand at room temperature for 48 hours. Most of the nitric acid is then carefully removed by evaporation on a rotary evaporator under a water pump vacuum, the residue is distributed between an aqueous potassium hydrogen carbonate solution and a sufficient amount of methylene chloride and is worked up in the usual manner. The methylene chloride phases are again extracted with a small amount of water, dried over sodium sulphate, and the solvent is carefully removed by evaporation in a vacuum. The resulting crude product is distilled in a high vacuum and yields isopropyl-tartronic acid diethyl ester having a B.P. of 65°-67° (0.05 mm of Hg), nD20 = 1.4289.

reactant | nitric acid | 6.3 mols, 400 g | [N+](=O)(O)[O-] | HNO3
reactant | isopropyl-malonic acid diethyl ester | 0.05 mols, 10 g | C(C)OC(C(C(=O)OCC)C(C)C)=O | C10H18O4
product | isopropyl-tartronic acid diethyl ester | C(C)OC(C(O)(C(=O)OCC)C(C)C)=O | C10H18O5
